*low pass filter 
*fc = 1/2piRC

V0 in 0 SIN(0 10 500) 
R1 in output 1k 
C1 output 0 0.318u

.tran 0.05m 5m 
.control 
run 
set color2=red
set color3=blue

plot v(in) v(output) 

.endc 
.end 
